US06423710B1
3-Cyclopropylmethoxy-4-methoxybenzaldehyde
A solution of 3-hydroxy-4-methoxybenzaldehyde (400 g, 2.63 mole) and bromomethylcyclopropane (426 g, 3.2 mole) in 1 L dimethylformamide (DMF) was stirred with potassium carbonate (K2CO3) (483 g, 3.5 mole) at 55° C. for 3.5 h. Then, 1 L of water was added, the mixture chilled on ice, and Intermediate 1 filtered as a white solid, (535 g, 99%). m/z 207 (MH+).

reactant | 3-hydroxy-4-methoxybenzaldehyde | 2.63 mole, 400 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | bromomethylcyclopropane | 3.2 mole, 426 g | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 3.5 mole, 483 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 L | O | H2O
solvent | dimethylformamide | 1 L | CN(C=O)C | C3H7NO
product | 3-Cyclopropylmethoxy-4-methoxybenzaldehyde | C1(CC1)COC=1C=C(C=O)C=CC1OC | C12H14O3
